US05489593
3,5-Dimethyl-4-methoxybenzoic acid (I)
A mixture of 3,5-dimethyl-4-methoxybenzoic acid ethyl ester (PREPARATION 2, 10.5 g) and aqueous sodium hydroxide (20%, 100 ml) is refluxed for 18 hours. The solution is cooled and acidified with hydrochloric acid (12N, pH 2). The acidified solution is extracted with chloroform (3 X). The combined extracts are dried over sodium sulfate and concentrated under reduced pressure to give a solid which is recrystallized from ether/pet ether mixture to give the title compound, mp 189°-191°.

reactant | 3,5-dimethyl-4-methoxybenzoic acid ethyl ester | 10.5 g | C(C)OC(C1=CC(=C(C(=C1)C)OC)C)=O | C12H16O3
reactant | hydrochloric acid | 12N, pH 2 | Cl | ClH
solvent | sodium hydroxide | 100 ml | [OH-].[Na+]
product | 3,5-Dimethyl-4-methoxybenzoic acid | CC=1C=C(C(=O)O)C=C(C1OC)C | C10H12O3
